US08895313B2
4-(4,4,4-Trifluorobutoxy)-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide
A mixture of 4-(4,4,4-trifluorobutoxy)benzoic acid (0.20 g, 0.806 mmol) and thionyl chloride (0.42 g, 3.54 mmol) in chloroform (5 ml) was heated under reflux for 8 h. The reaction mixture was cooled to room temperature and the excess reagent and solvent was removed under reduced pressure to give the crude acid chloride. The amide was prepared as described in the Amide Coupling section using the crude acid chloride and 2-(4-aminophenyl)-6-methoxybenzothiazole (0.206 g, 0.806 mmol) in dry pyridine (10 ml) to give the title compound (0.343 g, 87%) as a colourless solid after work-up.

reactant | 4-(4,4,4-trifluorobutoxy)benzoic acid | 0.806 mmol, 0.20 g | FC(CCCOC1=CC=C(C(=O)O)C=C1)(F)F | C11H11F3O3
reactant | thionyl chloride | 3.54 mmol, 0.42 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-aminophenyl)-6-methoxybenzothiazole | 0.806 mmol, 0.206 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H12N2OS
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4,4,4-Trifluorobutoxy)-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.343 g, 87% | FC(CCCOC1=CC=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1)(F)F | C25H21F3N2O3S
